US05219862
N-(6-cyano-8beta-methoxycarbonyl-2-ergolinyl-methyl)-N-methyl-morpholinium iodide
1.13 g of 6-cyano-2-morpholinomethyl-8beta-ergoline-carboxylic acid methyl ester is dissolved in 45 ml of tetrahydrofuran and stirred with 2.4 ml of methyl iodide at room temperature overnight. The crystalline precipitate is filtered off, yield 1.26 g (82% of theory), [α]D =+9.7° (0.5% in DMSO).

reactant | 6-cyano-2-morpholinomethyl-8beta-ergoline-carboxylic acid methyl ester | 1.13 g | COC(=O)[C@H]1CN([C@@H]2CC3=C(NC4=CC=CC([C@H]2C1)=C34)CN3CCOCC3)C#N | C22H26N4O3
reactant | methyl iodide | 2.4 ml | CI | CH3I
solvent | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
product | N-(6-cyano-8beta-methoxycarbonyl-2-ergolinyl-methyl)-N-methyl-morpholinium iodide | [I-].C(#N)N1C[C@@H](C[C@@H]2C=3C=CC=C4NC(=C(C[C@@H]12)C34)C[N+]3(CCOCC3)C)C(=O)OC | InChI=1S/C23H29N4O3.HI/c1-27(6-8-30-9-7-27)13-20-18-11-21-17(16-4-3-5-19(25-20)22(16)18)10-15(23(28)29-2)12-26(21)14-24;/h3-5,15,17,21,25H,6-13H2,1-2H3;1H/q+1;/p-1/t15-,17-,21-;/m1./s1
